US07053071B2
Step 1: Synthesis of ethyl 4-bromo-3-hydroxybenzoate (6).
To a mixture containing 4-bromo-3-hydroxybenzoic acid (5.0 g, 0.023 mol) and 5 ml of EtOH in 150 ml of benzene was added 1 ml of MeSO3H. The mixture was heated at reflux for 10 h using a Dean-Stark trap to collect water, then concentrated. The residue was dissolved in CH2Cl2, washed (water, 5% NaHCO3, and brine), dried (Na2SO4), and concentrated. The crude product was chromatographed (EtOAc/hexane) to gave a white solid (5.1 g, 90%): 1H NMR (300 MHz, CDCl3) δ 1.39 (t, J=7.2 Hz, 3 H), 4.37 (q, J=7.2 Hz, 2 H), 5.75 (s, 1 H), 7.48 (d, J=8.1 Hz, 1 H), 7.55 (d, J=8.1 Hz, 1 H), 7.68 ppm (s, 1 H).

reactant | 4-bromo-3-hydroxybenzoic acid | 0.023 mol, 5.0 g | BrC1=C(C=C(C(=O)O)C=C1)O | C7H5BrO3
reactant | EtOH | 5 ml | CCO | C2H6O
reactant | MeSO3H | 1 ml | CS(=O)(=O)O | CH4O3S
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | ethyl 4-bromo-3-hydroxybenzoate | 5.1 g, 90% | BrC1=C(C=C(C(=O)OCC)C=C1)O | C9H9BrO3
